US05444050
Anisole (2.16 g, 20.0 mmol) was dissolved in dry THF (50 ml) in a dry 100 ml flask flushed with nitrogen. The mixture was chilled in a dry ice/2-propanol bath, n-butyl lithium (10.9 ml of a 2.3M solution in hexanes, 25 mmol) was added, then the cooling bath was exchanged for an ice-water bath. The reaction was stirred for an hour at 0° C., then trimethyl borate (2.3 ml, 20 mmol) was added and the mixture was stirred at room temperature overnight. The reaction mixture was treated with 2N aqueous HCl to pH 3 and mixed well for 30 minutes, then extracted with ether (3×15 ml). The organic materials were combined, dried (MgSO4), then concentrated under reduced pressure which gave 2.88 g (95%) of 2-methoxybenzene boronic acid as a clear oil which was used in the next step without further purification.

reactant | Anisole | 20.0 mmol, 2.16 g | C1(=CC=CC=C1)OC | C7H8O
reactant | trimethyl borate | 20 mmol, 2.3 ml | B(OC)(OC)OC | C3H9BO3
reactant | HCl | 2N | Cl | ClH
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 2-methoxybenzene boronic acid | 2.88 g, 95% | COC1=C(C=CC=C1)B(O)O | C7H9BO3
